US07420055B2
Synthesis of 4-Bromo-N-[4,5-difluoro-2-(pyridine-3-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedures for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-4,5-difluoro-phenyl)-pyridin-3-yl-methanone 1 g (4.27 mmol) and 4-bromo-benzenesulfonyl chloride 1.15 g (4.27 mmol) with stirring in 20 ml pyridine. Purification on silica gel with flash column chromatography yielded light orange solid

reactant | (2-amino-4,5-difluoro-phenyl)-pyridin-3-yl-methanone | 4.27 mmol, 1 g | NC1=C(C=C(C(=C1)F)F)C(=O)C=1C=NC=CC1 | C12H8F2N2O
reactant | 4-bromo-benzenesulfonyl chloride | 4.27 mmol, 1.15 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-Bromo-N-[4,5-difluoro-2-(pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)F)C(=O)C=1C=NC=CC1 | C18H11BrF2N2O3S
